US06809097B1
4-Cyano-3-(3-morpholinopropoxy)aniline (2.5 g, 9.6 mmol) and 2,2-dimethyl-5-methoxymethylene-1,3-dioxane-4,6-dione (2.4 g, 13 mmol), (Montatsh. Chem. 1967, 98, 564), in ethanol (40 ml) was heated at reflux for 2 hours. The mixture was allowed to cool and the solid was collected by filtration to give 5-((4-cyano-3-(3-morpholinopropoxy)anilino)methylene)-2,2-dimethyl-1,3-dioxane-4.6-dione (2.96 g, 74%).

reactant | 4-Cyano-3-(3-morpholinopropoxy)aniline | 9.6 mmol, 2.5 g | C(#N)C1=C(C=C(N)C=C1)OCCCN1CCOCC1 | C14H19N3O2
reactant | 2,2-dimethyl-5-methoxymethylene-1,3-dioxane-4,6-dione | 13 mmol, 2.4 g | CC1(OC(C(C(O1)=O)=COC)=O)C | C8H10O5
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-((4-cyano-3-(3-morpholinopropoxy)anilino)methylene)-2,2-dimethyl-1,3-dioxane-4.6-dione | 2.96 g, 74% | C(#N)C1=C(C=C(NC=C2C(OC(OC2=O)(C)C)=O)C=C1)OCCCN1CCOCC1 | C21H25N3O6
